US08048887B2
5-(3-Fluoro-5-(1-(pyridin-2-yl)cyclopropylcarbamoyl)phenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide
The product precipitated from the reaction mixture during the coupling of 3-fluoro-5-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)benzoic acid (0.068 mmol scale) with 1-(pyridin-2-yl)cyclopropanamine dihydrochloride (TBTU, iPr2NET, DMF, r.t.). The mixture was diluted with 4 ml H2O, the off white solid filtered and washed with 3×2 ml H2O. The solid was further washed with 3×1 ml MeOH and dried. 1H NMR (500 MHz, DMSO-d6) δ 9.50 (s, 1H), 8.52 (d, J=4.58, 1H), 8.47 (d, J=3.97, 1H), 8.17 (s, 1H), 8.03-8.00 (overlapping m, 3H), 7.83 (overlapping m, 3H), 7.73 (d, 1H), 7.70 (dt overlapping with d, 1H), 7.43-7.40 (overlapping m, 3H), 7.17 (dd, J=6.87, 5.34, 1H), 2.88 (d, J=4.27, 3H), 1.59 (m, 2H), 1.32 (m, 2H). LC/MS were performed by using Shimadzu-VP instrument with UV detection at 220 nm and Waters MICROMASS®. HPLC method: Solvent A=10% MeOH-90% H2O-0.1% TFA, Solvent B=90% MeOH-10% H2O-0.1% TFA, Start % B=0, Final % B=100, Gradient time=2 min, Stop time=3 min, Flow Rate=5 ml/min, Column: PHENOMENEX® Luna, 3.0×50 mm, S10; (ES+) m/z (M+H)+=524.25, HPLC Rt=1.512 min.

reactant | 3-fluoro-5-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)benzoic acid | 0.068 mmol | FC=1C=C(C(=O)O)C=C(C1)C=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C1 | C23H15F2NO4
reactant | 1-(pyridin-2-yl)cyclopropanamine dihydrochloride | Cl.Cl.N1=C(C=CC=C1)C1(CC1)N
solvent | H2O | 4 ml | O | H2O
product | 5-(3-Fluoro-5-(1-(pyridin-2-yl)cyclopropylcarbamoyl)phenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | FC=1C=C(C=C(C1)C(NC1(CC1)C1=NC=CC=C1)=O)C=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1 | C31H23F2N3O3
